US06780996B2
Following the procedure used to prepare Example 27, 250 mg (0.64 mmol) of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxyquinoline-3-carbonitrile is reacted with 600 mg (3.80 mmol) of 3-(1-methylpiperidin-4-yl)propylamine in 2 mL of 1-methyl-2-pyrrolidinone at 105° C. for 18 hours to yield 130 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-{[3-(1-methylpiperidin-4-yl)propyl]amino}quinoline-3-carbonitrile as a white solid, mp 122-124° C.

reactant | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxyquinoline-3-carbonitrile | 0.64 mmol, 250 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C18H12Cl2FN3O2
reactant | 3-(1-methylpiperidin-4-yl)propylamine | 3.80 mmol, 600 mg | CN1CCC(CC1)CCCN | C9H20N2
solvent | 1-methyl-2-pyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-{[3-(1-methylpiperidin-4-yl)propyl]amino}quinoline-3-carbonitrile | 130 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)NCCCC1CCN(CC1)C)C#N | C27H31Cl2N5O2
